US08865732B2
To a solution of 2-nitro-3-methoxypyridine (32 g, 208 mmol) in EtOAc (150 mL) and MeOH (35 mL) under a nitrogen atmosphere was added 10% palladium on carbon (1.5 g, 1.4 mmol). This mixture was purged with H2 three times and the mixture was stirred for 3 h under a hydrogen atmosphere. The reaction mixture was purged with N2 three times, filtered through Celite, and the filter cake was washed with EtOAc (2×35 ml). The combined filtrate were concentrated and dried over high vacuum to afford 25.8 grams (100%) of 2-amino-3-methoxypyridine: LCMS (m/z): 125.0 (MH+); 1H NMR (300 MHz, CDCl3): 7.66 (m, 1H), 6.90 (m, 1H), 6.61 (m, 2H), 4.64 (s, br, 2H), 3.83 (s, 3H).

reactant | 2-nitro-3-methoxypyridine | 208 mmol, 32 g | [N+](=O)([O-])C1=NC=CC=C1OC | C6H6N2O3
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
solvent | MeOH | 35 mL | CO | CH4O
catalyst | palladium on carbon | 1.4 mmol, 1.5 g | [Pd] | Pd
product | 2-amino-3-methoxypyridine | 25.8 grams, 100% | NC1=NC=CC=C1OC | C6H8N2O
